US03935212
To a solution of N,O-dimethylhydroxylamine hydrochloride (7.7g) in water (40 ml) was added, firstly, sodium bicarbonate (6.5 g) and, secondly, 4-hydroxy-6-methyl-2-nitraminopyrimidine (10.8 g) and the resultant mixture was heated at 100°C for 2 hours. After filtering hot to remove traces of insoluble material the filtrate was cooled and extracted with chloroform (12 × 25 ml). The extracts were dried over anhydrous sodium sulphate and the solvent evaporated. The residual solid was recrystallised twice from benzene to yield 4-hydroxy-6-methyl-2(N-methyl-N-methoxyamino) pyrimidine having a melting point of 128°-129°C.

reactant | N,O-dimethylhydroxylamine hydrochloride | 7.7g | Cl.CNOC
reactant | sodium bicarbonate | 6.5 g | C([O-])(O)=O.[Na+]
reactant | 4-hydroxy-6-methyl-2-nitraminopyrimidine | 10.8 g | OC1=NC(=NC(=C1)C)N[N+](=O)[O-] | C5H6N4O3
solvent | water | 40 ml | O | H2O
product | 4-hydroxy-6-methyl-2(N-methyl-N-methoxyamino) pyrimidine | OC1=NC(=NC(=C1)C)N(OC)C | C7H11N3O2
